US05637593
2-(2-Chloro-3-phenoxyphenyl)-4,4-dimethyl-4,5-dihydrooxazole (2.80 g, 9.28 mmol) was heated with methyl iodide (1.8 mL) in nitromethane (4.0 mL) for 24 hr, (bath temp ca 70° C.). The brown solution was allowed to cool and Et2O was added until a slight cloudiness was observed. Crystallization commenced almost immediately and the mixture was allowed to stand in the freezer overnight. Large off-white crystals of the product: 2-(2-chloro-3-phenoxyphenyl)-3,4,4-trimethyl-4,5-dihydrooxazolium iodide were obtained. 3.51 g, (85%).

reactant | 2-(2-Chloro-3-phenoxyphenyl)-4,4-dimethyl-4,5-dihydrooxazole | 9.28 mmol, 2.80 g | ClC1=C(C=CC=C1OC1=CC=CC=C1)C=1OCC(N1)(C)C | C17H16ClNO2
reactant | methyl iodide | 1.8 mL | CI | CH3I
reactant | Et2O | CCOCC | C4H10O
solvent | nitromethane | 4.0 mL | [N+](=O)([O-])C | CH3NO2
product | 2-(2-chloro-3-phenoxyphenyl)-3,4,4-trimethyl-4,5-dihydrooxazolium iodide | [I-].ClC1=C(C=CC=C1OC1=CC=CC=C1)C=1OCC([N+]1C)(C)C | InChI=1S/C18H19ClNO2.HI/c1-18(2)12-21-17(20(18)3)14-10-7-11-15(16(14)19)22-13-8-5-4-6-9-13;/h4-11H,12H2,1-3H3;1H/q+1;/p-1
